US04410529
2.75 g (9.3 millimoles) of 3-[p-(1-chlorocyclopropylcarbonylamino)-benzoyl]-propionic acid, 0.47 g (9.4 millimoles) of hydrazine hydrate and 20 ml of ethanol are refluxed for 6 hours. The product is filtered off at 10° C., washed with ethanol and dried under reduced pressure at 50° C., giving 2.5 g (92% of theory) of 6-[p-(1-chlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone as colorless crystals (identical with the compound from Example 7).

reactant | 3-[p-(1-chlorocyclopropylcarbonylamino)-benzoyl]-propionic acid | 9.3 millimoles, 2.75 g | ClC1(CC1)C(=O)NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C14H14ClNO4
reactant | hydrazine hydrate | 9.4 millimoles, 0.47 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-[p-(1-chlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 2.5 g, 92% | ClC1(CC1)C(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C14H14ClN3O2
